US04229449
150 g of α-(2-methoxy-phenoxy)-phenyl acetaldehyde dissolved in approximately 1800 ml of diglyme was stirred with 176.5 g of sodium metabisulphite in 550 ml of water and 200 ml of ethanol at 50° C. for 16 hours. The whole was cooled to room temperature and addition was made of 44.4 g of potassium cyanide in 200 ml of water. The whole was stirred at 90° C. (external temperature) for 5 hours, concentrated to approximately 800 ml and poured into water: extraction was performed with 4×750 ml of ethyl ether and the whole washed with water, dried over Na2SO4 and evaporated to dryness to obtain 156.5 g of 2-hydroxy-3-phenyl-3-(2-methoxy-phenoxy)-propionitrile as a viscous oil. Yield=94%. Analogously, all the 2-hydrox-propionitrile derivatives useful for the preparation of the 2-hydroxy-propylamines mentioned in Examples 3 and 4 were prepared.

reactant | α-(2-methoxy-phenoxy)-phenyl acetaldehyde | 150 g | COC1=C(OC(C=O)C2=CC=CC=C2)C=CC=C1 | C15H14O3
reactant | sodium metabisulphite | 176.5 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium cyanide | 44.4 g | [C-]#N.[K+]
solvent | diglyme | approximately 1800 ml | COCCOCCOC | C6H14O3
solvent | water | 550 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 2-hydroxy-3-phenyl-3-(2-methoxy-phenoxy)-propionitrile | 156.5 g, Yield=94% | OC(C#N)C(OC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C16H15NO3
